US05834434
N-BOC-4-amino-1-naphthoic acid
4-amino-1-naphthoic acid (0.86 g, 4.61 mmol) was dissolved into dioxane (9.2 ml) and 0.5M NaOH (9.2 ml). Di-t-butyl dicarbonate (1.11 g, 5.07 mmol) was added and the mixture was stirred overnight. The reaction mixture was worked up as described for N-BOC-4-aminobenzoic acid in Example 1 to give 0.76 g (56.7%) of reddish pink solid. mp 194°-195° C.; 1H NMR (CD3OD) 1.56 (9 H, s), 7.53-7.62 (2 H, m), 7.79 (1 H, d, J=8.1 Hz), 8.12 (1 H, d, J=8.0 Hz), 8.22 (1 H, d, J=8.18 Hz), 9.02 (1 H, d, J=8.9 Hz); 13C NMR (CD3OD), 26.68, 81.62, 119.06, 123.40, 124.57, 127.03, 127.37, 128.49, 128.77, 131.89, 133.76, 139.86, 155.95, 170.73; anal. calc. for C17H17 NO4, C: 66.90, H: 5.96, N: 4.88; found C: 66.49, H: 6.08, N: 4.79; m/z (EI), 289; HRMS calc. for C16H17NO4, 287.1158; found, 287.1151.

reactant | 4-amino-1-naphthoic acid | 4.61 mmol, 0.86 g | NC1=CC=C(C2=CC=CC=C12)C(=O)O | C11H9NO2
reactant | NaOH | 0.5M, 9.2 ml | [OH-].[Na+]
reactant | Di-t-butyl dicarbonate | 5.07 mmol, 1.11 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | N-BOC-4-aminobenzoic acid | C(=O)(OC(C)(C)C)NC1=CC=C(C(=O)O)C=C1 | C12H15NO4
solvent | dioxane | 9.2 ml | O1CCOCC1 | C4H8O2
product | N-BOC-4-amino-1-naphthoic acid | 0.76 g, 56.7% | C(=O)(OC(C)(C)C)NC1=CC=C(C2=CC=CC=C12)C(=O)O | C16H17NO4
